US05917041
(1S,2S,4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-[hydroxymethyl]-1,2-cyclopentanediol
(4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-1-cyclopentene-1-methanol (Part b, 501 mg, 1.89 mmol), N-methylmorpholine N-oxide (60% aqueous solution, Aldrich, 0.33 mL, 1.89 mmol), osmium tetroxide (2.5% in t-butyl alcohol, Aldrich, 0.47 mL), and t-butyl alcohol (12 mL) were heated at 60° C. for 1.5 hours. Volatiles were evaporated and the residual solids were chromatographed on silica gel. Title compound was elated with 10% methanol-chloroform as tan solid (210 mg) and resolidified from absolute ethanol to give white powder, m.p. 217-219° C.; mass spectrum (Cl/CH4): 302, 300 (M+1), 172, 170 (B+H); 1H-NMR (DMSO-d6)δ: 8.29 (s, 1, purine CH), 6.9 (br s, 2, NH2), 5.15-4.90 (m, 1, NCH), 4.80 (d, J=3.9 Hz) overlapping 4.78 (t, J=3.5 Hz, total 2, 2 OH), 4.30 (s) overlapping 4.3-4.2 (m, total 2, OH and OCH), 3.45-3.35 (m, overlapping water, CH2OH), 2.25-2.05 (m, 4, 2 CH2).

reactant | (4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-1-cyclopentene-1-methanol | 1.89 mmol, 501 mg | NC1=NC(=C2N=CN(C2=N1)[C@@H]1CC=C(C1)CO)Cl | C11H12ClN5O
reactant | N-methylmorpholine N-oxide | 1.89 mmol, 0.33 mL | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | t-butyl alcohol | 12 mL | C(C)(C)(C)O | C4H10O
reactant | water | O | H2O
catalyst | osmium tetroxide | 0.47 mL | [Os](=O)(=O)(=O)=O
product | (1S,2S,4R)-4-(2-Amino-6-chloro-9H-purin-9-yl)-2-[hydroxymethyl]-1,2-cyclopentanediol | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@]([C@H](C1)O)(O)CO)Cl | C11H14ClN5O3
